US07452911B2
3.34e {5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-(2-pyrrolidin-1-yl-propyl)-amine
Prepared according to general working method I from (5-iodo-pyridin-2-yl)-(2-pyrrolidin-1-yl-propyl)-amine (250 mg, 0.76 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (165 mg, 0.77 mmol).

reactant | (5-iodo-pyridin-2-yl)-(2-pyrrolidin-1-yl-propyl)-amine | 0.76 mmol, 250 mg | IC=1C=CC(=NC1)NCC(C)N1CCCC1 | C12H18IN3
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.77 mmol, 165 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | {5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-(2-pyrrolidin-1-yl-propyl)-amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)NCC(C)N1CCCC1 | C25H25ClN4
